US05856503
A solution of 0.16 ml of chlorosulphonyl isocyanate in 0.8 ml of methylene chloride is added dropwise at 0° C. to a solution of 0.69 g of [4-[6-(allyl-methyl-amino)-hexyloxy]-2-methylamino-phenyl]-(4-bromo-phenyl)-methanone in 4 ml of methylene chloride. After 3 hrs. at room temperature the mixture is again cooled to 0° C. and 0.8 ml of chlorosulphonyl isocyanate in 0.5 ml of methylene chloride is added dropwise. After 1 hr. at room temperature the mixture is worked-up with saturated sodium bicarbonate solution/methylene chloride and purified over silica gel with methylene chloride/methanol/25% aqueous ammonium hydroxide (95:5:0.5). There is obtained 0.26 g of 7-[6-(allyl-methyl-amino)-hexyloxy]-4-(4-bromo-phenyl)-1-methyl-1H-quinazolin-2-one, MS: m/e 484 (M+H+, 1 Br).

reactant | chlorosulphonyl isocyanate | 0.16 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | [4-[6-(allyl-methyl-amino)-hexyloxy]-2-methylamino-phenyl]-(4-bromo-phenyl)-methanone | 0.69 g | C(C=C)N(CCCCCCOC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)Br)NC)C | C24H31BrN2O2
reactant | chlorosulphonyl isocyanate | 0.8 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 0.8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 7-[6-(allyl-methyl-amino)-hexyloxy]-4-(4-bromo-phenyl)-1-methyl-1H-quinazolin-2-one | 0.26 g | C(C=C)N(CCCCCCOC1=CC=C2C(=NC(N(C2=C1)C)=O)C1=CC=C(C=C1)Br)C | C25H30BrN3O2
